US08097620B2
Method 17. Preparation of 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid
tert-Butyl 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetate. The title compound is prepared from methyl 5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate and tert-butyl 2-aminoacetate hydrochloride according to Method 3(a).

reactant | tert-Butyl 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetate | OC1=C(C(N(C=2N=NC(=CC21)OC)C)=O)C(=O)NCC(=O)OC(C)(C)C | C16H20N4O6
reactant | methyl 5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate | OC1=C(C(N(C=2N=NC(=CC21)OC)C)=O)C(=O)OC | C11H11N3O5
reactant | tert-butyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OC(C)(C)C
product | 2-(5-hydroxy-3-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid | OC1=C(C(N(C=2N=NC(=CC21)OC)C)=O)C(=O)NCC(=O)O | C12H12N4O6
